US08487108B2
A solution of (R)-methyl 3-amino-2-(benzyloxycarbonylamino)propanoate hydrochloride (4.0 g, 0.014 mol) in methanol (80 mL) was cooled to 0° C. To this mixture was added Et3N (3.3 g, 31 mmol), followed by 4-chlorobutanoyl chloride (2.3 g, 15.0 mmol). The reaction mixture was allowed to warm to rt and stirred for 4 h. The reaction was quenched with saturated brine (200 mL), the organic layer extracted with CH2Cl2, washed with 1N HCl, saturated brine, dried over MgSO4 and concentrated to give crude (R)-methyl 2-(benzyloxycarbonylamino)-3-(4-chlorobutanamido)propanoate (5.0 g) that was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz) δ 7.45-7.35 (m, 5H) 6.01 (s, 1H), 5.84 (d, 1H), 5.11 (d, 2H), 4.42 (t, 5H), 3.68-3.50 (m, 6H), 2.32 (t, 2H), 2.08 (t, 2H).

reactant | (R)-methyl 3-amino-2-(benzyloxycarbonylamino)propanoate hydrochloride | 0.014 mol, 4.0 g | Cl.NC[C@H](C(=O)OC)NC(=O)OCC1=CC=CC=C1
reactant | Et3N | 31 mmol, 3.3 g | CCN(CC)CC | C6H15N
reactant | 4-chlorobutanoyl chloride | 15.0 mmol, 2.3 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | methanol | 80 mL | CO | CH4O
product | (R)-methyl 2-(benzyloxycarbonylamino)-3-(4-chlorobutanamido)propanoate | 5.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(=O)OC)CNC(CCCCl)=O | C16H21ClN2O5
